US04409215
A solution of 7-[2-carboxymethoxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-methylthiomethyl-3-cephem-4-carboxylic acid (syn isomer) (4.1 g) and sodium acetate (9.56 g) in water (41 ml) was stirred for 19.5 hours at ambient temperature. The resultant solution was adjusted to pH 2.0 with conc. hydrochloric acid. The precipitates were collected by filtration and dried over phosphorus pentoxide to give 7-[2-carboxymethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-methylthiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.8 g), mp 173°-176° C. (dec.).

reactant | 7-[2-carboxymethoxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-methylthiomethyl-3-cephem-4-carboxylic acid | 4.1 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC)C(=O)O)C1=O)C=1N=C(SC1)NC(C(F)(F)F)=O | C18H16F3N5O8S3
reactant | sodium acetate | 9.56 g | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 41 ml | O | H2O
product | 7-[2-carboxymethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-methylthiomethyl-3-cephem-4-carboxylic acid | 1.8 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC)C(=O)O)C1=O)C=1N=C(SC1)N | C16H17N5O7S3
